US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[1-((S)-2-hydroxypropyl)-piperidin-4-yl]-2-methoxyphenyl}-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XLV)
In a similar fashion as for the synthesis of III, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide and 4-[1-((S)-2-hydroxypropyl)-piperidin-4-yl]-2-methoxy-benzaldehyde were reacted to produce the title compound (70%). 1H NMR (d-chloroform): 10.81 (br s, 1H), 8.33 (d, J=9 Hz, 1H), 8.01 (s, 1H), 7.03 (d, J=9 Hz, 1H), 6.94 (s, 1H), 6.42 (s, 1H), 6.35 (m, 2H), 5.55 (d, J=8 Hz, 1H), 5.27 (br s, 1H), 5.20 (t, J=9 Hz, 1H), 4.07 (s, 3H), 3.89 (m, 1H), 3.58 (m, 1H), 3.18 (m, 2H), 2.97 (d, J=11 Hz, 1H), 2.92 (s, 1H), 2.87 (d, J=11 Hz, 1H), 2.61 (m, 1H), 2.49-2.24 (m, 4H), 2.08 (t, J=11 Hz, 1H), 1.94-1.71 (m, 5H), 1.18 (d, J=7 Hz, 3H). MS: 551.2 (M+H). HPLC retention time: 1.84 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 4-[1-((S)-2-hydroxypropyl)-piperidin-4-yl]-2-methoxy-benzaldehyde | O[C@H](CN1CCC(CC1)C1=CC(=C(C=O)C=C1)OC)C | C16H23NO3
product | (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[1-((S)-2-hydroxypropyl)-piperidin-4-yl]-2-methoxyphenyl}-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 70% | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)C2CCN(CC2)C[C@H](C)O)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C29H35ClN6O3
